US08071779B2
2,2-Dimethyl-1-(5-(pyrrolidin-3-ylamino)-1H-indazol-1-yl)propan-1-one
Reaction of tert-butyl 3-oxopyrrolidine-1-carboxylate and 1-(5-amino-1H-indazol-1-yl)-2,2-dimethylpropan-1-one maleate salt using the method of Example 3 followed by deprotection using the method of Example 4 afforded the title compound.

reactant | tert-butyl 3-oxopyrrolidine-1-carboxylate | O=C1CN(CC1)C(=O)OC(C)(C)C | C9H15NO3
reactant | 1-(5-amino-1H-indazol-1-yl)-2,2-dimethylpropan-1-one maleate salt | C(\C=C/C(=O)O)(=O)O.NC=1C=C2C=NN(C2=CC1)C(C(C)(C)C)=O
product | 2,2-Dimethyl-1-(5-(pyrrolidin-3-ylamino)-1H-indazol-1-yl)propan-1-one | CC(C(=O)N1N=CC2=CC(=CC=C12)NC1CNCC1)(C)C | C16H22N4O
